US04616023
In a similar manner, a solution of 1.7 grams of sodium borohydride in 20 milliliters of water was added dropwise to a solution of 3-chloro-11-bromo-5H-dibenzo[a,d]cyclohepten-5-one in 100 milliliters of boiling methanol and the resulting mixture refluxed for 1.5 hours to obtain a 3-chloro-11-bromo-5H-dibenzo[a,d]cyclohepten-5-ol intermediate which was recovered by evaporating the mixture to dryness in vacuo, then washing with water, filtering and drying under reduced pressure at about 60° C.

reactant | sodium borohydride | 1.7 grams | [BH4-].[Na+]
reactant | 3-chloro-11-bromo-5H-dibenzo[a,d]cyclohepten-5-one | ClC=1C=CC2=C(C(C3=C(C=C2Br)C=CC=C3)=O)C1 | C15H8BrClO
solvent | water | 20 milliliters | O | H2O
solvent | methanol | 100 milliliters | CO | CH4O
product | 3-chloro-11-bromo-5H-dibenzo[a,d]cyclohepten-5-ol | ClC=1C=CC2=C(C(C3=C(C=C2Br)C=CC=C3)O)C1 | C15H10BrClO
